US09062028B2
Step A. 5-Bromoquinoline 1-oxide
To a solution of 5-bromoquinoline (2.5 g, 12.02 mmol) in DCM (50 mL) was added m-CPBA (3.50 g, 15.62 mmol) in three portions at room temperature. Upon completion of addition, the reaction mixture was stirred at room temperature for 3 h. After this time, 1N NaOH (40 ml) was added to the reaction, and the resulting mixture was extracted with DCM (2×50 mL). The combined organic layers were washed with brine, dried over anhydrous MgSO4, filtered, and concentrated to afford the title compound (2.7 g, 99% yield) as light yellow solid. LCMS, [M+H]+=223.9. 1H NMR (400 MHz, CDCl3) δ 8.75 (d, J=8.8 Hz, 1H), 8.65 (d, J=6.0 Hz, 1H), 8.18 (d, J=8.8 Hz, 1H), 7.95 (d, J=7.7 Hz, 1H), 7.68-7.56 (m, 1H), 7.44 (dd, J=8.2, 6.0 Hz, 1H).

reactant | 5-bromoquinoline | 12.02 mmol, 2.5 g | BrC1=C2C=CC=NC2=CC=C1 | C9H6BrN
reactant | m-CPBA | 15.62 mmol, 3.50 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NaOH | 1N, 40 ml | [OH-].[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromoquinoline 1-oxide | 2.7 g, 99% yield | BrC1=C2C=CC=[N+](C2=CC=C1)[O-] | C9H6BrNO
